US05411934
Preparation of 2-(4,6-dimethoxypyrimidin-2-yl)-N-methoxymethyl-3-methyl-N-methylsulfonylbutyric acid amide (Compound No. 79)
2.0 of 2-(4,6-dimethoxypyrimidin-2-yl)-3-methyl-N-methylsulfonylbutyric acid amide was placed in a round bottom flask, and was dissolved in 50 ml of DMF. To the resultant solution, was gradually added 0.28 g of 60% sodium hydride, and the mixture was stirred at room temperature for one hour. Thereafter, 1.0 g of chloromethyl ethyl ether was added dropwise to the resultant mixture, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was then poured into ice water, and was extracted with 200 ml of diethyl ether, followed by drying with anhydrous sodium sulfate. After filtrating the inorganic salt, the solvent was distilled off under reduced pressure. An only product thus obtained was purified by silica gel column chromatography (developing solvent: N-hexane/ethyl acetate=10/1) to obtain 1.8 g of the aimed product of colorless transparent viscous liquid (yield=78.3%) having a refractive index (n20/D) of 1.4976.

reactant | 2-(4,6-dimethoxypyrimidin-2-yl)-3-methyl-N-methylsulfonylbutyric acid amide | COC1=NC(=NC(=C1)OC)C(C(=O)NS(=O)(=O)C)C(C)C | C12H19N3O5S
reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | chloromethyl ethyl ether | 1.0 g | C(C)OCCl | C3H7ClO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(4,6-dimethoxypyrimidin-2-yl)-N-methoxymethyl-3-methyl-N-methylsulfonylbutyric acid amide | 1.8 g | COC1=NC(=NC(=C1)OC)C(C(=O)N(S(=O)(=O)C)COC)C(C)C | C14H23N3O6S
